US09376418B2
Palladium tetrakis (1.64 g, 1.41 mmol) was added to a solution of 2-bromo-4-iodopyridine (4.00 g, 14.1 mmol) in THF (28.2 ml) under an argon atmosphere. The mixture was cooled to 0° C., 3-ethoxy-3-oxopropylzinc bromide (36.6 mL, 18.3 mmol) was slowly added to the reaction mixture and stirred for 1 hour. The mixture was then allowed to warm to room temperature overnight. An aqueous ammonium chloride was added to the reaction mixture and stirred for 5 minutes. pH was then adjusted to ˜8 with aqueous sodium bicarbonate and product was extracted with ethyl acetate (3×). The combined organic layers were dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (ethyl acetate/hexanes) to afford ethyl 3-(6-bromopyridin-3-yl)propanoate. MS ESI calc'd for C10H13BrNO2 [M+H]+ 258 and 260. found 258 and 260.

reactant | 2-bromo-4-iodopyridine | 14.1 mmol, 4.00 g | BrC1=NC=CC(=C1)I | C5H3BrIN
reactant | 3-ethoxy-3-oxopropylzinc bromide | 18.3 mmol, 36.6 mL | [Br-].C(C)OC(CC[Zn+])=O
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 28.2 ml | C1CCOC1 | C4H8O
catalyst | Palladium tetrakis | 1.41 mmol, 1.64 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 3-(6-bromopyridin-3-yl)propanoate | BrC1=CC=C(C=N1)CCC(=O)OCC | C10H12BrNO2
